US04626582
When an amide of a fatty amine is desired, i.e. a compound wherein X is --CH2 --NR4R5, it is convenient to acylate and, optionally, alkylate a compound such as oleyl amine and then hydroformylate and acrylate as described above. For example, oleyl amine can be acetylated with acetic acid and methylated to form N-acetyl-N-methyl oleyl amine. This unsaturated amine can then be reacted with carbon monoxide and hydrogen to prepare N-acetyl-N-methyl-10(11)-formyl octadecanamine. This formylated amine can then be reduced to prepare N-acetyl-N-methyl-10(11)-hydroxymethyloctadecanamine which is finally reacted with an acryloyl compound to prepare N-acetyl-N-methyl-10(11)-acryloxymethyloctadecacamine.

reactant | oleyl amine | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | acrylate | C(C=C)(=O)[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-acetyl-N-methyl oleyl amine | C(C)(=O)N(C)CCCCCCCC\C=C/CCCCCCCC | C21H41NO
